US07544812B2
A 0° C. solution of compound [1-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester (9.84 g, 33.7 mmol) in DMF (30 mL) was treated with sodium hydride (60% dispersion, 1.37 g, 34.3 mmol) and warmed to room temperature and stirred under N2 for 20 minutes. The resultant mixture was cooled to 0° C. and then treated with methyl iodide (6.16 g, 43.4 mmol) and then warmed to room temperature and stirred for 16 h. The reaction was quenched with aqueous 1 N HCl (60 mL) and then worked up extractively with EtOAc and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to give crude product that was purified by flash chromatography using 3:1 hexanes:actetone to afford 7.46 g (85%) [1-(4-methoxy-benzyl)-3-methyl-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester. MS (ES+) Calc'd for C15H19N2O5 (M+1) 307. Found m/z 307 (100%). 1H NMR.

reactant | [1-(4-methoxy-benzyl)-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester | 33.7 mmol, 9.84 g | COC(CC1NC(N(C1=O)CC1=CC=C(C=C1)OC)=O)=O | C14H16N2O5
reactant | sodium hydride | 34.3 mmol, 1.37 g | [H-].[Na+]
reactant | methyl iodide | 43.4 mmol, 6.16 g | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [1-(4-methoxy-benzyl)-3-methyl-2,5-dioxo-imidazolidin-4-yl]-acetic acid methyl ester | 7.46 g, 85% | COC(CC1N(C(N(C1=O)CC1=CC=C(C=C1)OC)=O)C)=O | C15H18N2O5
